US06329393B1
Step A. 4-(4-Fluorophenyl)piperidine hydrochloride
To a solution of 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (10 g) in methanol (200 mL) was added 10% palladium on charcoal (0.5 g) and the mixture was hydrogenated at 50 psi for 3 h. The catalyst was removed by filtration and solvent was evaporated to leave the product as a white powder, which was used in the next step without any purification.

reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 10 g | Cl.FC1=CC=C(C=C1)C=1CCNCC1
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 4-(4-Fluorophenyl)piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C1CCNCC1 | InChI=1S/C11H14FN.ClH/c12-11-3-1-9(2-4-11)10-5-7-13-8-6-10;/h1-4,10,13H,5-8H2;1H
